US08426604B2
B. 4-[Methyl-(2,2,2-trifluoro-acetyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of 4-(2,2,2-Trifluoro-acetylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.26 g, 0.76 mmol) in DMF (2 mL) was added potassium carbonate (0.139 g, 1 mmol) followed by methyl iodide (0.14 g, 1 mmol). The reaction mixture was stirred at 80° C. for 16 hours and partitioned between water and ethyl acetate. The ethyl acetate layer was washed with brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude solid. The crude solid was purified via flash chromatography (50% ethyl acetate in Hexanes) to yield the title compound.

reactant | 4-(2,2,2-Trifluoro-acetylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.76 mmol, 0.26 g | COC(=O)C1N(CC(C1)NC(C(F)(F)F)=O)C(=O)OC(C)(C)C | C13H19F3N2O5
reactant | potassium carbonate | 1 mmol, 0.139 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1 mmol, 0.14 g | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[Methyl-(2,2,2-trifluoro-acetyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)N(C(C(F)(F)F)=O)C)C(=O)OC(C)(C)C | C14H21F3N2O5
